US06559293B1
10.09 g (29.73 mmoles) of topiramate (Cheminor Drugs Ltd., Hyderabad, India, Batch TP001J00) was placed in a 250 mL beaker and 100.0 mL of HPLC grade water (J T Baker, Phillipsburg, N.J. USA, Lot V32E17) was added. 1.36 g (34.0 mmoles) of sodium hydroxide (Sigma, St. Louis, Mo. USA, Lot 99H0120) was added and the mixture was stirred with a TEFLON® coated magnetic stir bar using a hot plate/stir plate. The mixture was heated to 60° C. to dissolve. The solution was filtered and evaporated at 60° C. while blowing air over the surface using a TYGON tube attached to an air source to reduce the volume to 15 mL, and the flask was placed in a cold room (4° C.) overnight. Crystals grew overnight. The mixture was filtered and dried to yield 305 mg topiramate sodium as large, block-like crystals. Elemental analysis: calc. C, 34.70; H, 6.31; N 3.37%; found C, 34.90; H, 6.04; N 3.36%. mp 80-85° C., recrystallization from melted material 110-120° C., second mp 170-175° C. PXRD Cu-Kαradiation (1.5406 Å) first 8 peaks (peak number/20Θvalue), #1/4.51°, #2/12.09°, #3/12.709°, #4/13.67°, #5/15.01°, #6/16.17°, #7/17.19°, #8/17.55°. The pH of a 400 mg/mL solution of the compound in distilled water was about 11.2, which was determined using a Thermo Orion pH meter, Model 525A+ (Orion Research, Inc., Beverly, Mass. USA).

reactant | topiramate | 29.73 mmoles, 10.09 g | CC1(O[C@@H]2CO[C@@]3([C@H]([C@@H]2O1)OC(O3)(C)C)COS(=O)(=O)N)C | C12H21NO8S
reactant | sodium hydroxide | 34.0 mmoles, 1.36 g | [OH-].[Na+]
solvent | water | O | H2O
product | topiramate sodium | 305 mg | CC1(O[C@@H]2CO[C@@]3([C@H]([C@@H]2O1)OC(O3)(C)C)COS(=O)(=O)[NH-])C.[Na+] | InChI=1S/C12H20NO8S.Na/c1-10(2)18-7-5-16-12(6-17-22(13,14)15)9(8(7)19-10)20-11(3,4)21-12;/h7-9H,5-6H2,1-4H3,(H-,13,14,15);/q-1;+1/t7-,8-,9+,12+;/m1./s1
